US06642224B1
3-Hydroxy-2-nitrobenzoic acid (1.83 g) was dissolved in 50 ml of N,N-dimethylformamide, then 1.23 g of 4-methoxyaniline, 2.50 g of 1-ethyl-3-dimethylaminopropylcarbodiimide hydrochloride, 1.35 g of 1-hydroxybenzotriazole and 1.81 ml of triethylamine were added and the mixture was stirred at room temperature for 66 hours. The reaction solution was concentrated in vacuo, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. Chloroform was added to the resulting residue and the resulting precipitate was filtered to give 2.04 g of 3-hydroxy-4′-methoxy-2-nitrobenzanilide. The filtrate was purified by silica gel column chromatography using chloroform-methanol (98:2) as an eluting solvent, chloroform was added to the resulting crude product and the resulting precipitate was filtered to give additional 0.24 g of 3-hydroxy-4′-methoxy-2-nitrobenzanilide.

reactant | 3-Hydroxy-2-nitrobenzoic acid | 1.83 g | OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H5NO5
reactant | 4-methoxyaniline | 1.23 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 1-ethyl-3-dimethylaminopropylcarbodiimide hydrochloride | 2.50 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.81 ml | C(C)N(CC)CC | C6H15N
product | 3-hydroxy-4′-methoxy-2-nitrobenzanilide | 2.04 g | OC=1C(=C(C(=O)NC2=CC=C(C=C2)OC)C=CC1)[N+](=O)[O-] | C14H12N2O5
